US07884210B2
{2-[3-Cyclohexylmethyl-3-(6-methoxy-pyridin-3-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-cyclohexylmethyl-3-(6-methoxy-pyridin-3-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclohexylmethyl-(6-methoxy-pyridin-3-yl)-amine and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester.

reactant | {2-[3-cyclohexylmethyl-3-(6-methoxy-pyridin-3-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C=1C=NC(=CC1)OC)CC1CCCCC1)=O | C21H28N4O4S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | cyclohexylmethyl-(6-methoxy-pyridin-3-yl)-amine | C1(CCCCC1)CNC=1C=NC(=CC1)OC | C13H20N2O
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-Cyclohexylmethyl-3-(6-methoxy-pyridin-3-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)CN(C(NC=1SC(=CN1)SCC(=O)O)=O)C=1C=NC(=CC1)OC | C19H24N4O4S2
